US05344843
A stirred mixture of 3-(2-phenoxyethoxy)-2-naphthol (3.9 g), ethylene carbonate (1.4 g) and tetraethylammonium bromide (0.8 g) was heated at 155°-160° C. for 2 hours. The cooled reaction was diluted with dichloromethane and washed with 1N sodium hydroxide and with water. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude material which was purified by HPLC (dichloromethane-ethyl acetate; 20:1 ) and crystallized from dichloromethane-diethyl ether to give 3.3 g of 2-[[3-(2-phenoxyethoxy)2-naphthalenyl]oxy]ethanol as a colorless solid, mp 119°-120° C.

reactant | 3-(2-phenoxyethoxy)-2-naphthol | 3.9 g | O(C1=CC=CC=C1)CCOC=1C(=CC2=CC=CC=C2C1)O | C18H16O3
reactant | ethylene carbonate | 1.4 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium bromide | 0.8 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[[3-(2-phenoxyethoxy)2-naphthalenyl]oxy]ethanol | 3.3 g | O(C1=CC=CC=C1)CCOC=1C(=CC2=CC=CC=C2C1)OCCO | C20H20O4
